US05962694
2-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde
68 g (0.14 mol) of 4-chloro-3-(4-chloro-5-dibromomethyl-2-fluorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole were dissolved in 200 ml of concentrated sulfuric acid, with ice-cooling, whereupon the mixture was heated at 100° C. until the evolution of gas had ceased. It was then poured into 4 l of ice-water. The mixture was subsequently extracted three times using ethyl acetate. The combined organic phases were washed with water, then dried over magnesium sulfate and finally concentrated. The crude product was purified by means of column chromatography on silica gel (eluent: hexane/ethyl acetate=8:1). Yield: 35 g; m.p.: 95-98° C.

reactant | 4-chloro-3-(4-chloro-5-dibromomethyl-2-fluorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 0.14 mol, 68 g | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)C(Br)Br)Cl)F | C12H7Br2Cl2F3N2O
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzaldehyde | ClC1=C(C=O)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H7Cl2F3N2O2
